US08703784B2
To a solution of 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate (2.28 g, 2.87 mmol) in CH3CN (50 mL) was added NBS (511 mg, 2.87 mmol) and stirred at room temperature for 30 min. Both TLC and LCMS showed complete conversion. All the volatiles were removed under reduced pressure and the residue was purified by a SiO2 column (0-30%, EtOAc/Hexanes, Rf=0.65 in 50% EtOAc) to afford 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate as a yellow oil (2.50 g, 99%).

reactant | 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate | 2.87 mmol, 2.28 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NN(C2)C2=CC=CC=C2)C2CCC(CC2)(C(=O)OCCOC)OCCOC)COCC[Si](C)(C)C)(C)C | C40H62N6O7Si2
reactant | NBS | 2.87 mmol, 511 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate | 2.50 g, 99% | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NN(C2)C2=CC=CC=C2)C2CCC(CC2)(C(=O)OCCOC)OCCOC)Br)COCC[Si](C)(C)C)(C)C | C40H61BrN6O7Si2
